US08937091B2
4-fluoro-1-acryloylbenzene 8186
Fluorobenzene (0.5 mL), acryloyl chloride (0.23 g), and aluminium chloride (0.33 g) were treated in the same manner as described in Example 1 to obtain the title compound (90 mg).

reactant | Fluorobenzene | 0.5 mL | FC1=CC=CC=C1 | C6H5F
reactant | acryloyl chloride | 0.23 g | C(C=C)(=O)Cl | C3H3ClO
reactant | aluminium chloride | 0.33 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 4-fluoro-1-acryloylbenzene | 90 mg | FC1=CC=C(C=C1)C(C=C)=O | C9H7FO
